US07304081B2
Step 1. Methyl 1-phenylcyclopropanecarboxylate
Methyl iodide (2.8 mL, 45.0 mmol) was added to a mixture of 1-phenylcyclopropanecarboxylic acid (4.9 g, 30.0 mmol) and potassium carbonate (8.3 g, 60.0 mmol) in DMF (50 mL) at room temperature and the reaction mixture was stirred for 1 h. Then the reaction mixture was diluted with diethyl ether. The resulting mixture was washed with water (×2)and brine successively, then dried and concentrated to afford the desired product.

reactant | Methyl iodide | 45.0 mmol, 2.8 mL | CI | CH3I
reactant | 1-phenylcyclopropanecarboxylic acid | 30.0 mmol, 4.9 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | potassium carbonate | 60.0 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 1-phenylcyclopropanecarboxylate | C1(=CC=CC=C1)C1(CC1)C(=O)OC | C11H12O2
